US09290526B2
Synthesis of (2-(2-(butylamino)-5-phenylpyridin-3-yl)ethane-1,1-diyl)diphosphonic acid
Tetraethyl(2-(2-bromo-5-nitropyridin-3-yl)ethane-1,1-diyl)bis(phosphonate) (77 mg, 0.153 mmol, 1 eq) was transferred to a 12 mL Teflon lined screw cap vial and charged with Cs2CO3 (150 mg, 0.46 mmol, 3 eq), Xantphos (10 mg, 0.017 mmol, 0.11 eq) and Pd2(dba)3 (7 mg, 0.008 mmol, 0.05 eq), capped with a rubber septum and flushed with argon. 1,4-Dioxane (1 mL) was added, the vial was flushed again with argon and the mixture was stirred for 1 min before butylamine (0.08 mL, 0.76 mmol, 5 eq) was added, and mixture flushed again. The reaction mixture was sealed with a Teflon cap and stirred at 95° C. for 16 h. The crude was cooled to room temperature, passed through a celite plug, washed with EtOAc/Acetone 1:1 and purified by column chromatography (using a solvent gradient from 5% EtOAc in hexanes to 100% EtOAc and then to 10% MeOH in EtOAc. The desired product was isolated as a yellow solid (52 mg, 69% yield).

reactant | Tetraethyl(2-(2-bromo-5-nitropyridin-3-yl)ethane-1,1-diyl)bis(phosphonate) | 0.153 mmol, 77 mg, 1 eq | C(C)OP(OCC)(=O)C(CC=1C(=NC=C(C1)[N+](=O)[O-])Br)P(OCC)(OCC)=O | C15H25BrN2O8P2
reactant | Cs2CO3 | 0.46 mmol, 150 mg, 3 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.017 mmol, 10 mg, 0.11 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | butylamine | 0.76 mmol, 0.08 mL, 5 eq | C(CCC)N | C4H11N
catalyst | Pd2(dba)3 | 0.008 mmol, 7 mg, 0.05 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2-(2-(butylamino)-5-phenylpyridin-3-yl)ethane-1,1-diyl)diphosphonic acid | C(CCC)NC1=NC=C(C=C1CC(P(O)(O)=O)P(O)(O)=O)C1=CC=CC=C1 | C17H24N2O6P2
